US07776855B2
To a solution of methanesulfonyloxy-acetic acid benzyl ester (2.50 g, 10.24 mmol) in THF (20 mL) was added the tetrabutylammonium salt of di-tert-butylphosphate (4.61 g, 10.24 mmol). The reaction was stirred overnight, concentrated, and purified directly by MPLC (SiO2, 10-30% gradient elution, Hexane: EtOAc) to give 1.42 g (39%) of (di-tert-butoxy-phosphoryloxy)-acetic acid benzyl ester. 1H NMR (400 MHz, CDCl3): δ 7.37-7.35 (m, 5H), 5.21 (s, 2H), 4.55 (d, 2H), and 1.48 (s, 18H).

reactant | methanesulfonyloxy-acetic acid benzyl ester | 10.24 mmol, 2.50 g | C(C1=CC=CC=C1)OC(COS(=O)(=O)C)=O | C10H12O5S
reactant | di-tert-butylphosphate | 10.24 mmol, 4.61 g | C(C)(C)(C)OP(=O)(OC(C)(C)C)[O-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (di-tert-butoxy-phosphoryloxy)-acetic acid benzyl ester | 1.42 g, 39% | C(C1=CC=CC=C1)OC(COP(=O)(OC(C)(C)C)OC(C)(C)C)=O | C17H27O6P
